US05021479
O-(3,5-Di-tert.butyl-4-hydroxybenzoyl)-N,N-diethylhydroxylamine
Following the procedure of Example II, the compound is prepared from 3.17 g of oxalyl chloride, 6.25 g of 3,5-di-tert-butyl-4-hydroxybenzoic acid, 2.53 g of N,N-diethylhydroxylamine, and 2.53 g of triethylamine. The residue is recrystallized from petroleum ether to give 3.47 g of a white solid: mp 129°-137° C.

reactant | oxalyl chloride | 3.17 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,5-di-tert-butyl-4-hydroxybenzoic acid | 6.25 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | N,N-diethylhydroxylamine | 2.53 g | C(C)N(O)CC | C4H11NO
solvent | triethylamine | 2.53 g | C(C)N(CC)CC | C6H15N
product | O-(3,5-Di-tert.butyl-4-hydroxybenzoyl)-N,N-diethylhydroxylamine | 3.47 g | C(C)(C)(C)C=1C=C(C(=O)ON(CC)CC)C=C(C1O)C(C)(C)C | C19H31NO3
